US05236884
Methyl 4,4-dimethyl-3-oxopentanoate (100 g, 0.632 mol) and 2,4-dichloroaniline (100 g, 0.617 mol) were heated at reflux for 6 hours in xylenes (reagent grade, dried over 4A molecular sieves, 150 mL) in a flask equipped with mechanical stirrer and distillation apparatus. 100 mL of distillate was collected during this period. The reaction mixture was then cooled to room temperature and petroleum ether (500 mL) was added with stirring. The mixture was cooled further with an ice bath, and the crystals which had formed were collected by filtration and washed with petroleum ether. A second crop was collected after concentration of the filtrate. The combined materials were dried under high vacuum to give N-[4,4,-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline (152.8 g, 84% yield) as a white solid which melted at 77°-78° C. The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | Methyl 4,4-dimethyl-3-oxopentanoate | 0.632 mol, 100 g | CC(C(CC(=O)OC)=O)(C)C | C8H14O3
reactant | 2,4-dichloroaniline | 0.617 mol, 100 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
product | N-[4,4,-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline | 152.8 g, 84% yield | CC(C(CC(=O)NC1=C(C=C(C=C1)Cl)Cl)=O)(C)C | C13H15Cl2NO2
